* C:\Users\Jimbles\Parallel-CS\schematics\Connector.Filter.Board\sim\eegfilt.asc
XU1 Vin VDD VSS N001 AD8244
C1 N002 N001 2.2µf
R1 N002 0 750k
XU2 Vin VDD VSS N001 AD8244
XU3 N002 VDD VSS Vout AD8244
V1 VDD 0 5
V2 0 VSS 5
V3 Vin 0 SINE(100mV 1 10)
.include AD8244.cir
#.include opamp2_ad8244.asy
;op
.tran 1
.meas AVG(V(vout))
.meas AVG(V(vin))
.backanno
.end
