* C:\Users\Jimbles\Parallel-CS\schematics\Connector.Filter.Board\sim\eegfilt.asc
XU1 Vin VDD VSS N001 AD8244
C1 N002 N001 2.2µf
R1 N002 0 750k
XU2 Vin VDD VSS N001 AD8244
XU3 N002 VDD VSS Vout AD8244
V3 Vin 0 SINE(100mV 1 10)
R2 0 N003 1k
R3 VDD N004 220k
R4 N004 VSS 220k
V1 VDD VSS 5
XU5 N004 0 VDD VSS N003 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
.include AD8244.cir
#.include opamp2_ad8244.asy
;op 1
.tran 1
.meas AVG(V(vout))
.meas AVG(V(vin))
.lib UniversalOpamps2.sub
.backanno
.end
